US05789417
Using analogous procedures to those described in the second and third paragraphs of Example 12, pentafluorophenyl o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzoate was reacted with methyl (2S)-2-amino-4-(tetrazol-5-yl)butyrate to give methyl (2S)-2-{o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-3-pivaloyloxymethyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamido}-4-(tetrazol-5-yl)butyrate in 73% yield which in turn was hydrolysed with aqueous sodium hydroxide solution to give (2S)-2-{o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamido}-4-(tetrazol-5-yl)butyric acid in 81% yield, m.p. 203°-205° C.;

reactant | pentafluorophenyl o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzoate | FC1=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC(=C1)N(C1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O)C | C32H27F6N3O5
reactant | methyl (2S)-2-amino-4-(tetrazol-5-yl)butyrate | N[C@H](C(=O)OC)CCC1=NN=NN1 | C6H11N5O2
product | methyl (2S)-2-{o-fluoro-p-[N-methyl-N-((6RS)-2-methyl-3-pivaloyloxymethyl-4-oxo-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]benzamido}-4-(tetrazol-5-yl)butyrate | 73% yield | FC1=C(C(=O)N[C@H](C(=O)OC)CCC2=NN=NN2)C=CC(=C1)N(C1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O)C | C32H37FN8O6
